US04353827
4 g (10.83 mmol) of t-butyl (S)-11,12,13,13a-tetrahydro-8-methylthio-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate are dissolved in 50 ml of methylene chloride and treated portionwise at room temperature with 4.0 g (about 20.8 mmol) of about 90 percent m-chloroperbenzoic acid. Subsequently, the mixture is warmed to boiling under reflux for 2.5 hours, then poured into 2 N sodium hydroxide and the methylene chloride solution is separated. The organic phase is dried over magnesium sulphate and evaporated. After recrystallization from chloroform/hexane, there is obtained t-butyl (S)-11,12,13,13a-tetrahydro-8-methylsulphonyl-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate of melting point 244°.

reactant | t-butyl (S)-11,12,13,13a-tetrahydro-8-methylthio-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | 10.83 mmol, 4 g | CSC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CCC1)=O | C20H23N3O3S
reactant | m-chloroperbenzoic acid | about 20.8 mmol, 4.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | t-butyl (S)-11,12,13,13a-tetrahydro-8-methylsulphonyl-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxylate | CS(=O)(=O)C1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CCC1)=O | C20H23N3O5S
